US07084270B2
FMOC-L-Phenylalanine (17 g, 44 mmol) (Bachem) was dissolved in dichloromethane (100 mL). Pyridine (3.55 mL, 44 mmol) (Aldrich) and cyanuric fluoride (6 g, 44 mmol) (Aldrich) were successively added at room temperature and the mixture was stirred for 3.5 hours. Ice cold water (300 mL) was added and the resulting slurry was filtered. The filtrate was poured into a separatory funnel and the layers were separated. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to afford FMOC-L-phenylalanyl fluoride as a white powder. (Yield 13.6 g, 80%).

reactant | FMOC-L-Phenylalanine | 44 mmol, 17 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC1=CC=CC=C1)C(=O)O | C24H21NO4
reactant | Pyridine | 44 mmol, 3.55 mL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 44 mmol, 6 g | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | FMOC-L-phenylalanyl fluoride | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC1=CC=CC=C1)C(=O)F | C24H20FNO3
